US07056916B2
(d) 6-benzyloxy-8-{2-[2-(2,4-difluorophenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-4H-benzo[1,4]oxazin-3-one
Reaction of 0.89 g (2.49 mmol) of benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one and 0.40 g (2.16 mmol) of 2-(2,4-difluorophenyl)-1,1-dimethylethylamine in the manner described for Example 8(d). Yield: 0.80 g (62%, hydrochloride); melting point 245° C.–247° C.

reactant | benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one | 2.49 mmol, 0.89 g | C(C1=CC=CC=C1)OC1OC2=C(NC1=O)C=CC=C2C(C(O)OCC)=O | C19H19NO6
reactant | 2-(2,4-difluorophenyl)-1,1-dimethylethylamine | 2.16 mmol, 0.40 g | FC1=C(C=CC(=C1)F)CC(C)(C)N | C10H13F2N
reactant | hydrochloride | Cl | ClH
product | 6-benzyloxy-8-{2-[2-(2,4-difluorophenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-4H-benzo[1,4]oxazin-3-one | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC(CC1=C(C=C(C=C1)F)F)(C)C)O | C27H28F2N2O4
